US08633237B2
b) methyl 1-(benzyloxycarbonylamino)-2,3-dihydro-1H-indene-5-carboxylate
A 500 mL steel autoclave was charged with benzyl 5-bromo-2,3-dihydro-1H-inden-1-ylcarbamate (7.50 g, 21.7 mmol), PdCl2(dppf) (890 mg, 1.1 mmol), and sodium carbonate (4.69 g, 44.3 mmol) in degassed DMF (50 mL) and methanol (50 mL). The autoclave was placed under carbon monoxide (12 bar) and stirred at 100° C. for 3 days. The reaction was cooled to rt, diluted with EtOAc (200 mL) and brine (200 mL), and filtered over Kiezelguhr gel. The organics were isolated and washed with brine (2×200 mL). The organic phase was dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford aa brown oil. This material was purified by flash column chromatography (300 g silica, EtOac/heptane, from 0% to 50% of EtOAc) to the title compound as a white solid (3.87 g, 52.2%). MS (ESI): m/z [M+H]+ 326.0

reactant | benzyl 5-bromo-2,3-dihydro-1H-inden-1-ylcarbamate | 21.7 mmol, 7.50 g | BrC=1C=C2CCC(C2=CC1)NC(OCC1=CC=CC=C1)=O | C17H16BrNO2
reactant | sodium carbonate | 44.3 mmol, 4.69 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | methanol | 50 mL | CO | CH4O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | brine | 200 mL | [Cl-].[Na+].O
catalyst | PdCl2(dppf) | 1.1 mmol, 890 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 1-(benzyloxycarbonylamino)-2,3-dihydro-1H-indene-5-carboxylate | C(C1=CC=CC=C1)OC(=O)NC1CCC2=CC(=CC=C12)C(=O)OC | C19H19NO4
